US08426447B2
A solution of (S)-2′-(neopentyloxy)-7′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine (50 mg, 0.108 mmol) in BuOH (861 μL), 2-bromo-1H-imidazole (0.129 mmol), and KOAc (31.7 mg, 0.323 mmol) in Water (215 μL) was purged with Ar in a sealed tube. AmPhos (1.525 mg, 2.153 μmol) was added and the reaction was heated to 120° C. for 30 min in the microwave. The reaction was cooled to rt, diluted with MeOH (3 ml), loaded onto an AccuBOND II SCX cartridge, washed with MeOH (3 ml) and eluted with 2N NH3 in MeOH (6 ml) to give the crude product which was purified by reverse-phase preparative HPLC using a Gemini NX c!8 column (150*30 mm, 5 um), 0.1% TFA in CH3CN/H2O, gradient 0% to 70% over 10 min to provide (S)-2′-(1H-imidazol-2-yl)-7′-(neopentyloxy)-5H-spiro[oxazole-4,9′-xanthen]-2-amine.

reactant | (S)-2′-(neopentyloxy)-7′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 0.108 mmol, 50 mg | C(C(C)(C)C)OC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)B1OC(C(O1)(C)C)(C)C)N=C(OC3)N | C26H33BN2O5
reactant | 2-bromo-1H-imidazole | 0.129 mmol | BrC=1NC=CN1 | C3H3BrN2
reactant | KOAc | 0.323 mmol, 31.7 mg | CC(=O)[O-].[K+]
reactant | AmPhos | 2.153 μmol, 1.525 mg | CC(CC1=CC=CC=C1)N.OP(=O)(O)O
solvent | BuOH | 861 μL | C(CCC)O | C4H10O
solvent | Water | 215 μL | O | H2O
solvent | MeOH | 3 ml | CO | CH4O
product | (S)-2′-(1H-imidazol-2-yl)-7′-(neopentyloxy)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | N1C(=NC=C1)C1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)OCC(C)(C)C)N=C(OC3)N | C23H24N4O3
